US03993645
Following the procedure given in Example 1b equimolar quantities of the above named 5,7-dichloro-2-(p-tolyl)-benzofuran and 4-phenylbenzalaniline were interacted in the presence of potassium tert.-butoxide to give 5,7-dichloro2-{4-[2-(4-biphenylyl)vinyl]phenyl} benzofuran which, following recrystallization from chlorobenzene, melted at 258°-260° C. The wavelength of maximum excitation of this compound was 375 nm., and the wavelength of maximum emission was 431 nm.

reactant | 5,7-dichloro-2-(p-tolyl)-benzofuran | ClC=1C=C(C2=C(C=C(O2)C2=CC=C(C=C2)C)C1)Cl | C15H10Cl2O
reactant | 4-phenylbenzalaniline | C1(=CC=CC=C1)C1=CC=C(C=NC2=CC=CC=C2)C=C1 | C19H15N
reactant | potassium tert.-butoxide | CC(C)([O-])C.[K+]
product | 5,7-dichloro2-{4-[2-(4-biphenylyl)vinyl]phenyl} benzofuran | ClC=1C=C(C2=C(C=C(O2)C2=CC=C(C=C2)C=CC2=CC=C(C=C2)C2=CC=CC=C2)C1)Cl | C28H18Cl2O
